* C:\sandbox\spicelib_dev\examples\testfiles\DC sweep.qsch
R1 N01 N02 10K
R2 N02 0 {res}
D1 N02 0 D
Vin N01 0 1
.step temp 0 100 50
.param res=10K
.dc Vin 1 10 9
.op
.param temp=25
.param new_param=120
.param other_param=voila
.lib C:\PROGRA~1\QSPICE\Diode.txt
.end
